Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Orthostatic Hypotension
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 ___ is a ___ year old man with Down's p/w hypotension,
bradycardia. 

 Apparently ___ has had sinus bradycardia for some time with
rates in the 40-50s.  Although he has not had dizziness,
lightheadedness nor syncope the plan had been for stress test in
___ clinic under Dr. ___ to assess for chronotropic
incompetence. ___ has been followed as outpatient by Dr. 
___. However, his standing BP was 56/38 and sitting was 60/40.
He is on no medications other than new Seroquel 12.5mg which was
started last night for the first time. 

In the ED...
- Initial vitals: T: 98.1  HR: 44  BP: 94/67  RR: 14  SO2:100% 
RA

- EKG:  sinus bradycardia
- Labs/studies notable for: stable CBC, Na 149, Lactate:3.8
- Patient was given:  
  ___ 19:47 IVF  NS 1000 mL ___ Stopped (1h
___  
  ___ 22:57 IVF  NS ( 1000 mL ordered) ___
Started 
- Vitals on transfer:  T: 98.4  HR: 49  BP: 91/47  RR:  20  SO2:
98% RA 

On the floor, he is rather upset, he dislikes the color red and
is extremely bothered by redness near his IV and for the
telemetry stickers that have been removed. 

 
Past Medical History:
1. Down Syndrome
2. Celiac's Disease
3. Mitral Valve Prolapse with moderate MR
4. Presumed sleep apnea
5. Early onset Alzheimer 
6. sinus bradycardia

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.  
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
VITALS: pending 
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: Supple with JVP flat.  
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. RRR, normal S1, S2. No murmurs/rubs/gallops. No thrills,
lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits. R PIV in place.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE PHYSICAL EXAM
VS: T 98.1, BP 113/65, HR 73, RR 18, O2 96%RA
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: Supple with JVP flat.  
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. RRR, normal S1, S2. No murmurs/rubs/gallops. No thrills,
lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits. R PIV in place.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

 
Pertinent Results:
ADMISSION LABS
==============
___ 05:05PM BLOOD WBC-5.6 RBC-4.27* Hgb-14.6 Hct-43.8 
MCV-103* MCH-34.2* MCHC-33.3 RDW-13.4 RDWSD-50.9* Plt ___
___ 05:05PM BLOOD Neuts-66.8 ___ Monos-10.0 
Eos-0.4* Baso-1.4* Im ___ AbsNeut-3.75 AbsLymp-1.18* 
AbsMono-0.56 AbsEos-0.02* AbsBaso-0.08
___ 05:05PM BLOOD Glucose-81 UreaN-26* Creat-0.8 Na-149* 
K-4.9 Cl-105 HCO3-32 AnGap-12
___ 05:05PM BLOOD Calcium-9.6 Phos-3.9 Mg-2.3
___ 06:13PM BLOOD Lactate-3.8*
___ 09:39PM BLOOD Lactate-3.5*

STUDIES
=======
CXR ___
No focal consolidation.  Apparent left hilar enlargement, 
potentially due to superimposed vascular structures on and.  
Repeat PA view when patient is amenable, on a nonurgent basis. 

ETT ___
INTERPRETATION: This ___ year old man with Down's Syndrome was 
referred to the lab for evaluation of chronotropic incompetence. 
The 
patient was able to exercise for 6 minutes of a cycle ergometer 
protocol 
up to 60 Watts and stopped pedaling due to "tired". The 
estimated peak 
MET capacity was 5.9 which represents a poor functional capacity 
for his 
age. No arm, neck, back or chest discomfort was reported by the 
patient 
throughout the study. There were no significant ST segment 
changes 
during exercise or in recovery. The rhythm was sinus bradycardia 
at 
rest and sinus during exercise. There were no ectopic beats. BP 
increased from 98/62 at rest to 108/68 at peak exercise and HR 
increased 
from 44 bpm at rest to 77 bpm at peak exercise. 
IMPRESSION: HR and BP increased slightly but study was limited 
by the 
patient's willingness to continue. No angina or ST segment 
changes. 

 
Brief Hospital Course:
___ is a ___ year old man with Down Syndrome and Mitral Valve 
Prolapse who presented with hypotension and chronic sinus 
bradycardia.

# Sinus Bradycardia
According to his family, he has never had any syncope, 
lightheadedness. Only 1 fall with mechanical trigger. Observed 
on telemetry here with mostly NSR in the ___ and rare 
junctional rhythms in the ___. On stress EKG on stationary bike, 
he was able to reach ___ METS and HR increased appropriately 
from 44 to 77, along with BP increasing from 98/62 to 108/68. He 
had no pain or ST changes. Overall, no signs that his sinus 
bradycardia is acutely symptomatic. He will follow up with Dr. 
___ in clinic.

# Orthostatic Hypotension
# Hypernatremia
# Hypovolemia
On admission, he was hypovolemic on exam. He had no symptoms of 
infection and labs not concerning for infection. H/H stable. 
Received a total of 3L IVF with improvement in BPs. Observed to 
not be at all symptomatically orthostatic prior to discharge. 
Attempted to get repeat Lactate and Electrolytes to confirm 
normalization, but ___ was unable to cooperate with blood 
draws. Due to clinically well-appearing, deferred bloodwork 
until PCP appointment, which ___ be a more comfortable/familiar 
setting.

# Agitation
Received several doses of Ativan overnight; held Seroquel while 
inpatient but can continue at home.

# Mitral Valve Prolapse
# Moderate MR
___ acutely symptomatic. Continue to watch.

TRANSITIONAL ISSUES
===================
[ ] No clear indication for pacemaker or other intervention for 
bradycardia at this time. Observed to be stable w/o symptoms 
with HRs in ___ and appropriately responded to exercise. 
Further f/u by Dr. ___.
[ ] Please check Chem-7 and Lactate at next PCP appointment to 
confirm normalization after fluids.
[ ] Encourage frequent hydration as he was quite hypovolemic on 
arrival.
[ ] Restarted Seroquel as unlikely to have worsened/caused 
orthostatic hypotension. However, could consider discontinuing 
if it is thought to have worsened his blood pressures and/or if 
he becomes symptomatically orthostatic.
[ ] CXR noted L hilar enlargement. When amenable to study, would 
be reasonable to re-assess with PA & Lateral XR.

# CONTACT: Aunt, ___ (___)
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. QUEtiapine Fumarate 12.5 mg PO QHS 
2. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Multivitamins 1 TAB PO DAILY  
2.  QUEtiapine Fumarate 12.5 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
=================
Sinus Bradycardia

SECONDARY DIAGNOSES
===================
Down Syndrome
Mitral Valve Prolapse
Celiac Disease

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you had a low heart rate and low 
blood pressure.

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- We gave you IV fluids to help improve your blood pressure.
- We watched your heart rate on the monitor.
- You exercised on a bicycle and we tracked your heart rate and 
blood pressure.
- We checked some bloodwork.
- Overall, we found that while your heart rate is slow and blood 
pressure on the lower side, you feel fine and are not having any 
symptoms from them.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Keep all your medical appointments
- Be sure to drink a good amount of water every day

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  
 
Followup Instructions:
___